US07157487B2
In xylene (20 mL), a mixture of 1-methyl-3-indolecarboxylic acid (1.00 g, 5.71 mmol), methyl 4-amino-3-hydroxyphenylacetate (1.03 g, 5.71 mmol) and boric acid (1.05 g, 17.1 mmol) was heated and refluxed for 24 hours by using a Dean-Stark trap. After the reaction mixture was cooled down to room temperature, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column, whereby from chloroform-ethyl acetate (4:1, v/v) eluate fractions, methyl 2-(1-methyl-3-indolyl)-6-benzoxazolylacetate (0.20 g, 11%) was obtained as a yellow oil.

reactant | 1-methyl-3-indolecarboxylic acid | 5.71 mmol, 1.00 g | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | methyl 4-amino-3-hydroxyphenylacetate | 5.71 mmol, 1.03 g | NC1=C(C=C(C=C1)CC(=O)OC)O | C9H11NO3
reactant | boric acid | 17.1 mmol, 1.05 g | B(O)(O)O | BH3O3
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 2-(1-methyl-3-indolyl)-6-benzoxazolylacetate | 0.20 g, 11% | CN1C=C(C2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C19H16N2O3
